US08877744B2
The reaction of (R)-5-[5-(3-chloro-phenylethynyl)-2,4-difluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-one (622 mg, 1.14 mmol) with Lawesson's reagent (572 mg, 1.41 mmol) in 1,4-dioxane (40 ml) yielded the (R)-5-[5-(3-chloro-phenylethynyl)-2,4-difluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-thione (432 mg, 67% yield) as a light brown gum.

reactant | (R)-5-[5-(3-chloro-phenylethynyl)-2,4-difluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-one | 1.14 mmol, 622 mg | ClC=1C=C(C=CC1)C#CC=1C(=CC(=C(C1)[C@]1(NC(COC(C1(F)F)(C)C)=O)C)F)F | C22H18ClF4NO2
reactant | Lawesson's reagent | 1.41 mmol, 572 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | 1,4-dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | (R)-5-[5-(3-chloro-phenylethynyl)-2,4-difluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-thione | 432 mg, 67% yield | ClC=1C=C(C=CC1)C#CC=1C(=CC(=C(C1)[C@]1(NC(COC(C1(F)F)(C)C)=S)C)F)F | C22H18ClF4NOS
